US06492385B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-(pyridin-2-yl)-thiophene-2-carboxamide
TEA (50 μL, 0.35 mmol) is added to a suspension of 5-(pyridin-2-yl)-2-thiophenecarboxylic acid (72 mg, 0.35 mmol) in CH2Cl2:DMF (2:1, 1.5 mL). Diphenylchlorophosphate (62 μL, 0.3 mmol) is added and the resulting solution is stirred at room temperature for 30 minutes. A solution of (R)-3-aminoquinuclidine (1M, 0.2 mmol, 0.2 mL) in DMF is added and the resulting solution is stirred overnight at room temperature. MeOH is added and the mixture is poured through a column of AG50W×2 ion exchange resin (H+ form). The resin is washed with MeOH then the product is eluted with 5% TEA in MeOH. The eluent is evaporated to dryness to yield the desired product (15 mg, 24%). MS for C17H19N3OS (ESI) (M+H)+ m/z 314.

reactant | 5-(pyridin-2-yl)-2-thiophenecarboxylic acid | 0.35 mmol, 72 mg | N1=C(C=CC=C1)C1=CC=C(S1)C(=O)O | C10H7NO2S
reactant | Diphenylchlorophosphate | 0.3 mmol, 62 μL | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | (R)-3-aminoquinuclidine | 0.2 mmol, 1M, 0.2 mL | N[C@H]1CN2CCC1CC2 | C7H14N2
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 DMF | 1.5 mL | C(Cl)Cl.CN(C)C=O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-(pyridin-2-yl)-thiophene-2-carboxamide | 15 mg, 24% | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC(=CC2)C2=NC=CC=C2 | C17H19N3OS
